US04010177
In the manner given in Preparation 19, 8 -chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide is reacted at room temperature with propargylamine in the presence of potassium iodide to give 8-chloro-1-[[(2-propynyl)amino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 24 8 -Nitro-1-[[(2-propynyl)amino]methyl]-6(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8 -chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3F)F)C1 | C17H10Cl2F2N4
reactant | propargylamine | C(C#C)N | C3H5N
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-chloro-1-[[(2-propynyl)amino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC#C)C3=C(C=CC=C3F)F)C1 | C20H14ClF2N5
